US09376422B2
Step 3: ethyl 3-amino-5-bromobenzoate
To a stirred solution of methyl 3-bromo-5-nitrobenzoate (17 g, 62.04 mmol) in ethanol (85 mL), was added NH4Cl solution (17 g in 85 mL water, 317.8 mmol) followed by Fe powder (27.82 g, 498.12 mmol). Resulting reaction mass was stirred at 90° C. for 1 h. On completion, reaction mass was filtered and filtrate concentrated till dryness to get solid which was dissolved in sat. sodium bicarbonate solution. Aqueous layer was extracted with ethyl acetate (3×50 mL). Combined organic layers were dried over sodium sulfate and concentrated to afford the desired compound (15 g, 99.14%).

reactant | methyl 3-bromo-5-nitrobenzoate | 62.04 mmol, 17 g | BrC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H6BrNO4
reactant | NH4Cl | 317.8 mmol, 85 mL, 17 g | [NH4+].[Cl-]
reactant | ethanol | 85 mL | C(C)O | C2H6O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Fe | 498.12 mmol, 27.82 g | [Fe] | Fe
product | ethyl 3-amino-5-bromobenzoate | 15 g, 99.14% | NC=1C=C(C(=O)OCC)C=C(C1)Br | C9H10BrNO2
